US07259157B2
Preparation of 2-{[(2,2-dimethylpropanoyl)oxy]methyl}-1,3-thiazole-4-carboxylic acid
To a solution of bromopyruvic acid (0.37 g, 2.22 mmol) and 2-(tert-butylcarbonyloxy)thioacetamide (0.41 g, 2.22 mmol) in ethanol (20 ml) was added 4 A molecular sieves (2 g). After stirring for 15 h, 20 mL of dichloromethane was added. The mixture was stirred 5 min and filtered to give the product as a yellow solid.

reactant | bromopyruvic acid | 2.22 mmol, 0.37 g | BrCC(C(=O)O)=O | C3H3BrO3
reactant | 2-(tert-butylcarbonyloxy)thioacetamide | 2.22 mmol, 0.41 g | C(C)(C)(C)C(=O)OCC(=S)N | C7H13NO2S
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-{[(2,2-dimethylpropanoyl)oxy]methyl}-1,3-thiazole-4-carboxylic acid | CC(C(=O)OCC=1SC=C(N1)C(=O)O)(C)C | C10H13NO4S
